US06265415B1
Synthesis of 3-carboethoxy-8-(2-ethyl-6-methylbenzyloxy)-2-methylimidazo[1,2-a]pyridine
A stirred mixture of 3-carboethoxy-8-hydroxy-2-methylimidazo[1,2-a]pyridine (0.92 g, 4.2 mmol), (0.7 g, 4.2 mmol) 2-ethyl-6-methylbenzylchloride (0.7 g, 4.2 mmol), sodium carbonate (1.0 g, 9.4 mmol) and a catalytic amount of potassium iodide in acetonitrile (40 ml) was refluxed for 4 h. After filtration and evaporation of the solvent under reduced pressure the residue was purified by column chromatography on silica gel using methylene chloride:ethylacetate as eluent to give 1.0 g, (68%) of the title compound.

reactant | 3-carboethoxy-8-hydroxy-2-methylimidazo[1,2-a]pyridine | 4.2 mmol, 0.92 g | C(=O)(OCC)C1=C(N=C2N1C=CC=C2O)C | C11H12N2O3
reactant | 2-ethyl-6-methylbenzylchloride | 4.2 mmol, 0.7 g | C(C)C1=C(CCl)C(=CC=C1)C | C10H13Cl
reactant | sodium carbonate | 9.4 mmol, 1.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 3-carboethoxy-8-(2-ethyl-6-methylbenzyloxy)-2-methylimidazo[1,2-a]pyridine | 68% | C(=O)(OCC)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2C)CC)C | C21H24N2O3
